US07932279B2
{2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-yl}-(4-ethanesulfonyl-piperazin-1-yl)-methanone (66)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid and 1-ethylsulfonyl piperazine as described in general procedure D. LCMS: 531 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
reactant | 1-ethylsulfonyl piperazine | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
product | {2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-yl}-(4-ethanesulfonyl-piperazin-1-yl)-methanone | OC1=C(C=C(C(=C1)O)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)N1CCN(CC1)S(=O)(=O)CC | C24H30N6O6S
